US09376418B2
A mixture of N-[3-(2-fluoropyridin-4-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine (50.0 mg, 0.144 mmol), 1-(piperazin-1-yl)ethanone (36.8 mg, 0.287 mmol), and tribasic potassium phosphate (60.9 mg, 0.287 mmol) in DMSO (250 μL) was heated at 130° C. for 48 hours. The reaction mixture was diluted with DMSO (600 μL) and filtered through a plug of CELITE. The residue was purified by mass triggered reverse phase HPLC (21-55% acetonitrile in water+0.1% formic acid) to afford 1-{4-[4-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]piperazin-1-yl}ethanone as a tan solid. MS APCI calc'd for C23H24F3N6O [M+H]+ 457. found 457. 1H NMR (600 MHz, DMSO-d6) δ10.20 (s, 1H), 8.80 (d, J=4.8 Hz, 1H), 8.15 (d, J=5.2 Hz, 1H), 7.99 (s, 1H), 7.53 (s, 1H), 7.24 (d, J=4.9 Hz, 1H), 7.22 (s, 1H), 6.98 (s, 1H), 6.88 (d, J=5.3 Hz, 1H), 3.62-3.56 (m, 2H), 3.52 (d, J=7.5 Hz, 6H), 2.34 (s, 3H), 2.02 (s, 3H).

reactant | N-[3-(2-fluoropyridin-4-yl)-5-methylphenyl]-4-(trifluoromethyl)pyrimidin-2-amine | 0.144 mmol, 50.0 mg | FC1=NC=CC(=C1)C=1C=C(C=C(C1)C)NC1=NC=CC(=N1)C(F)(F)F | C17H12F4N4
reactant | 1-(piperazin-1-yl)ethanone | 0.287 mmol, 36.8 mg | N1(CCNCC1)C(C)=O | C6H12N2O
reactant | potassium phosphate | 0.287 mmol, 60.9 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | DMSO | 250 μL | CS(=O)C | C2H6OS
solvent | DMSO | 600 μL | CS(=O)C | C2H6OS
product | 1-{4-[4-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]piperazin-1-yl}ethanone | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC(=NC=C1)N1CCN(CC1)C(C)=O | C23H23F3N6O
